US04308258
Sodium methylate (13.5 g, 0.25 mole) was added to a solution of chloroacetamidine hydrochloride (7.74 g, 0.06 mole) and ethyl 4-chloroacetoacetate (9.88 g, 0.06 mole) in methanol (100 ml) with stirring at a temperature between 10° C. and 15° C. The mixture was stirred for 1 hour at 25° C. and then refluxed for 3 hours with stirring. After the reaction mixture was cooled to room temperature, the precipitate was filtered, and the filtrate was treated in the same manner as in Reference Example 1 to obtain 6.6 g of 2,6-bis(methoxymethyl)-4-hydroxypyrimidine.

reactant | Sodium methylate | 0.25 mole, 13.5 g | C[O-].[Na+]
reactant | chloroacetamidine hydrochloride | 0.06 mole, 7.74 g | Cl.ClCC(=N)N
reactant | ethyl 4-chloroacetoacetate | 0.06 mole, 9.88 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | methanol | 100 ml | CO | CH4O
product | 2,6-bis(methoxymethyl)-4-hydroxypyrimidine | 6.6 g | COCC1=NC(=CC(=N1)O)COC | C8H12N2O3
